US08937073B2
1a) 2-fluoro-4-(4-methoxy-2-trifluoromethyl-phenylamino)-benzonitrile
2-Amino-5-methoxy-benzotrifluoride (10.46 mmol), K3PO4 (15.7 mmol), Xphos (1.05 mmol) and Pd4(dba)3 (0.314 mmol) were added under nitrogen to a solution of 4-bromo-2-fluoro-benzonitrile (10.46 mmol) in 50 mL toluene and the mixture was stirred for 20 hours at a bath temperature of 110° C. Then the mixture was filtered through a glass fibre filter, then the filtrate was extracted with 150 mL water. The organic phase was dried on sodium sulphate and evaporated down. In this way the product was obtained in a yield of 87% of theory.

reactant | 2-Amino-5-methoxy-benzotrifluoride | 10.46 mmol | NC1=C(C=C(C=C1)OC)C(F)(F)F | C8H8F3NO
reactant | K3PO4 | 15.7 mmol | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | Xphos | 1.05 mmol | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | 4-bromo-2-fluoro-benzonitrile | 10.46 mmol | BrC1=CC(=C(C#N)C=C1)F | C7H3BrFN
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 2-fluoro-4-(4-methoxy-2-trifluoromethyl-phenylamino)-benzonitrile | yield of 87% | FC1=C(C#N)C=CC(=C1)NC1=C(C=C(C=C1)OC)C(F)(F)F | C15H10F4N2O
